US07189851B2
H. Ethyl 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylate
Ethyl 5-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-6-(2,4-difluorobenzyl)-3-(ethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2-pyrazinecarboxylate (1.3 g, 2.17 mmol) was dissolved in 8 mL of CH3CN and 4 mL of H2O. Ceric ammonium nitrate (2.38 g, 4.34 mmol) was added and the reaction mixture stirred at ambient temperature for 30 min and then EtOAc was added and the organics extracted and washed with H2O, brine, and then dried (Na2SO4), filtered and concentrated to a brown solid. The solid was subjected to TFA (4.5 mL in 1 mL CH2Cl2) for 1 h and then concentrated. The residue was redissolved in CH2Cl2 (5 mL) and treated with Et3N (3 mL). After 16 h the reaction mixture was concentrated to a brown foam. The residue was redissolved in EtOAc and washed 1× pH 4.5 buffer, 1× brine and the organics dried (Na2SO4), filtered and concentrated to yield 0.250 g (26% yield) of the title compound as a tan solid. 1H NMR (CDCl3, 400 MHz) δ 9.41 (s, 1H), 9.34 (s, 1H), 7.58 (s, 1H), 7.26–7.21 (m, 1H), 6.80 (dd, J=16.4, 7.4 Hz, 2H), 4.75 (dd, J=10.3, 6.2 Hz, 1H), 4.51 (dd,J=14.2, 7.1 Hz, 2H), 4.27 (s, 2H), 3.78–3.68 (m, 1H), 3.45–3.39 (m, 1H), 2.54–2.43 (m, 1H), 2.37–2.32 (m, 2H), 1.46–1.38 (m, 1H), 1.23 (t, J=7.2 Hz, 3H); ESMS m/z 451 (M+H)+, 449 (M−H)+.

reactant | Ethyl 5-[2-[(2S)-1-(tert-butoxycarbonyl)pyrrolidinyl]-6-(2,4-difluorobenzyl)-3-(ethoxycarbonyl)-1,4-dihydro-4-pyridinyl]-2-pyrazinecarboxylate | 2.17 mmol, 1.3 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CC(C1C(=O)OCC)C=1N=CC(=NC1)C(=O)OCC)CC1=C(C=C(C=C1)F)F | C31H36F2N4O6
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 8 mL | CC#N | C2H3N
solvent | H2O | 4 mL | O | H2O
product | Ethyl 5-[(9aS)-2-(2,4-difluorobenzyl)-5-oxo-7,8,9,9a-tetrahydro-5H-pyrido[2,3-a]pyrrolizin-4-yl]-2-pyrazinecarboxylate | 0.250 g, 26% yield | FC1=C(CC=2C=C(C3=C([C@@H]4CCCN4C3=O)N2)C=2N=CC(=NC2)C(=O)OCC)C=CC(=C1)F | C24H20F2N4O3
